US07511050B2
Step D: 4-pentyl-1,4-dihydro-9H-[1,2,4]triazolo[1,5-a]purin-9-one
The mixture of 1-amino-2-imino-3-pentyl-1,2,3,7-tetrahydro-6H-purin-6-one (0.10 g, 0.4 mmol) and ethyl orthoformate (5 mL, 30 mmol) was stirred at 100° C. for 6 hours. The reaction mixture was concentrated and purified by preparative LCMS to yield the desired product (20 mg, 20%). LCMS calculated for C11H15N6O(M+H): 247.1; found: 247.1.

reactant | 1-amino-2-imino-3-pentyl-1,2,3,7-tetrahydro-6H-purin-6-one | 0.4 mmol, 0.10 g | NN1C(N(C=2N=CNC2C1=O)CCCCC)=N | C10H16N6O
reactant | ethyl orthoformate | 30 mmol, 5 mL | C(OCC)([O-])[O-]
product | 4-pentyl-1,4-dihydro-9H-[1,2,4]triazolo[1,5-a]purin-9-one | 20 mg, 20% | C(CCCC)N1C=2N(C(C=3NC=NC13)=O)N=CN2 | C11H14N6O
